US08183206B2
Sodium ozagrel+edaravone:
80 mg of sodium ozagrel was dissolved in an adequate amount of an electrolyte solution or carbohydrate solution and the resulting solution was intravenously administered constantly for 2 weeks, twice daily, that is, in the morning and evening, each over 2 hours. At the same time, 30 mg/20 ml of edaravone was diluted with an adequate amount of physiological saline and the resulting solution was intravenously infused for 2 weeks, twice daily, that is, in the morning and evening, each over 20 minutes.

reactant | sodium ozagrel | 80 mg | C1=CC(=CC=C1CN2C=CN=C2)/C=C/C(=O)[O-].[Na+]
reactant | edaravone | 20 ml | CC1=NN(C(=O)C1)C=2C=CC=CC2 | C10H10N2O
product | Sodium ozagrel edaravone | C1=CC(=CC=C1CN2C=CN=C2)/C=C/C(=O)[O-].[Na+].CC1=NN(C(=O)C1)C=2C=CC=CC2 | InChI=1S/C13H12N2O2.C10H10N2O.Na/c16-13(17)6-5-11-1-3-12(4-2-11)9-15-8-7-14-10-15;1-8-7-10(13)12(11-8)9-5-3-2-4-6-9;/h1-8,10H,9H2,(H,16,17);2-6H,7H2,1H3;/q;;+1/p-1/b6-5+;;
